US06767919B2
1-Chloroethoxy-4-hydroxythioxanthone
A solution of 120 mg of 1,4-dihydroxythioxanthone in 100 ml of acetone is stirred for 0.5 h at room temperature with 138 mg of potassium carbonate. A solution of 80 mg of 1-bromo-2-chloroethane in 5 ml of acetone is then added and the mixture refluxed for 24 h. The heterogeneous mixture is cooled, filtered, concentrated under reduced pressure and purified by silica gel column chromatography using a 1:1 mixture of hexanes and ethyl acetate to produce 100 mg of a yellow-red crystals (65%).

reactant | 1,4-dihydroxythioxanthone | 120 mg | OC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H8O3S
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 80 mg | BrCCCl | C2H4BrCl
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 1-Chloroethoxy-4-hydroxythioxanthone | 100 mg, 65% | ClC(C)OC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C15H11ClO3S
